US05869519
N-[(3-Chloro-5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid
A solution of N-[(3-chloro-5-fluoro-1-methylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester (682 mg) in anisole (1 mL) and methylene chloride (10 mL) was treated with TFA (5 mL), and the resultant reaction mixture was stirred for 45 minutes under a nitrogen atmosphere at room temperature. The reaction mixture was concentrated and chased with methylene chloride, then triturated with ether to afford the title product as a white powder (500 mg). MS (EI) for C20H22ClF2N3O5 : MH+ =458/460; (M-H)- =456/458.

reactant | N-[(3-chloro-5-fluoro-1-methylindole-2-carbonyl)valinyl]-3-amino-4-oxo-5-fluoropentanoic acid, t-butyl ester | 682 mg | ClC1=C(N(C2=CC=C(C=C12)F)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)OC(C)(C)C)C(CF)=O | C24H30ClF2N3O5
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | N-[(3-Chloro-5-Fluoro-1-Methylindole-2-Carbonyl)Valinyl]-3-Amino-4-Oxo-5-Fluoropentanoic Acid | 500 mg | ClC1=C(N(C2=CC=C(C=C12)F)C)C(=O)N[C@@H](C(C)C)C(=O)NC(CC(=O)O)C(CF)=O | C20H22ClF2N3O5
